US06037495
Synthesis of 2-(2-hydroxymethylphenyl)-2-methoxyimino-N-methylacetamide
A mixture of 2-(2-hydroxymethylphenyl)-2-hydroxyimino-N-methylacetamide (521 mg, E/Z≠93/7), potassium carbonate (415 mg), 95% dimethyl sulfate (365 mg) and acetone (5.0 ml) was stirred at room temperature for 6 hours. A few pieces of ice were added, and the mixture was stirred for 30 minutes. Water (about 50 ml) was added, and the mixture was extracted with ethyl acetate three times. The combined ethyl acetate layer was washed with saturated brine and dried over anhydrous sodium sulfate. Evaporation of the solvent under reduced pressure gave the crude product (E/Z≠9 97/3). The crude product was crystallized from ethyl acetate-hexane to obtain the title compound as crystals (389 mg) (E/Z=97/3, yield: 70.0%).

reactant | 2-(2-hydroxymethylphenyl)-2-hydroxyimino-N-methylacetamide | 521 mg | OCC1=C(C=CC=C1)C(C(=O)NC)=NO | C10H12N2O3
reactant | potassium carbonate | 415 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 365 mg | S(=O)(=O)(OC)OC | C2H6O4S
reactant | acetone | 5.0 ml | CC(=O)C | C3H6O
solvent | Water | about 50 ml | O | H2O
product | 2-(2-hydroxymethylphenyl)-2-methoxyimino-N-methylacetamide | 389 mg, yield: 70.0% | OCC1=C(C=CC=C1)C(C(=O)NC)=NOC | C11H14N2O3
